US07453010B2
A mixture of 0.3 g of trans-(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenoxy)acetic acid (0.44 mmol) and of 0.20 g of 10% palladium-on-charcoal (50% in water) in a mixture of tetrahydrofuran (5 ml) and ethanol (5 ml) is placed under a hydrogen atmosphere and stirred for 4 h. The reaction mixture is filtered through celite. The solvents are evaporated under reduced pressure and trans-(4-{4-[((2S)-2-hydroxy-3-{4-hydroxy-3-[(methylsulfonyl)amino]phenoxy}propyl)amino]cyclohexyl}-phenoxy)acetic acid is obtained in the form of a white solid (0.07 g, 32%) after purification on C18-grafted silica (eluent: water/acetonitrile, 95/5 to 5/95 gradient in 15 min).

reactant | trans-(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenoxy)acetic acid | 0.44 mmol, 0.3 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(OCC(=O)O)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C38H44N2O8S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.20 g | [Pd] | Pd
product | trans-(4-{4-[((2S)-2-hydroxy-3-{4-hydroxy-3-[(methylsulfonyl)amino]phenoxy}propyl)amino]cyclohexyl}-phenoxy)acetic acid | O[C@@H](CN[C@@H]1CC[C@H](CC1)C1=CC=C(OCC(=O)O)C=C1)COC1=CC(=C(C=C1)O)NS(=O)(=O)C | C24H32N2O8S
